US07745438B2
Acetic acid 3-(2-nitroethyl)-phenyl ester
Dissolve acetic acid 3-(2-nitrovinyl)-phenyl ester (25.56 g, 123.38 mmol) in chloroform (1575 mL). Add silica gel (247 g, 2 g/mmol) and isopropanol (370 mL) with mechanical stirring. Add portionwise sodium borohydride (18.67 g, 493.5 mmol) over 10 minutes. Stir at room temperature for 1 hour. Quench with 1 N hydrochloric acid (130 mL) over 20 minutes and stir at room temperature for 15 minutes. Filter solid and wash with dichloromethane (800 mL). Wash filtrate with saturated aqueous sodium chloride (300 mL), dry (magnesium sulfate), filter and concentrate to give the crude phenol intermediate contaminated with reduced starting material which is used directly in the next step. Dissolve the crude intermediate (23.14 g, ˜110 mmol) in pyridine (75 mL), cool in an ice bath and add acetic anhydride (4.1 mL, 44 mmol). Stir for 1 hour. Concentrate at −20° C., dissolve in ethyl acetate (150 mL), wash with cool 1 N hydrochloric acid (4×200 mL), saturated aqueous sodium chloride and dry (magnesium sulfate) and concentrate. Extract the aqueous washes with ethyl acetate, dry (magnesium sulfate) and concentrate. Combine both lots to give the desired compound as an orange oil (25.55 g, 99% total yield).

reactant | acetic acid 3-(2-nitrovinyl)-phenyl ester | 123.38 mmol, 25.56 g | [N+](=O)([O-])C=CC=1C=C(C=CC1)OC(C)=O | C10H9NO4
reactant | isopropanol | 370 mL | C(C)(C)O | C3H8O
reactant | sodium borohydride | 493.5 mmol, 18.67 g | [BH4-].[Na+]
reactant | acetic anhydride | 44 mmol, 4.1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 1575 mL | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
product | Acetic acid 3-(2-nitroethyl)-phenyl ester | 25.55 g, 99% | [N+](=O)([O-])CCC=1C=C(C=CC1)OC(C)=O | C10H11NO4
